US04740505
3-(3-Hydroxyphenoxy)pyridazine (Compound No. E)
11.1 g of 3-chloro-6-(3-hydroxyphenoxy)pyridazine are dissolved in 100 ml of ethanol, followed by addition of 6 ml of concentrated ammonia water and 1.0 of 5% Pd-C. Then catalytic reduction is carried out at 50° C. under atmospheric pressure. The theroretical amount of hydrogen gas is almost completely absorbed in about 1 hour. The reaction mixture is filtered and the filtrate is concentrated to dryness.

reactant | 3-chloro-6-(3-hydroxyphenoxy)pyridazine | 11.1 g | ClC=1N=NC(=CC1)OC1=CC(=CC=C1)O | C10H7ClN2O2
reactant | ammonia water | 6 ml | O.N
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | Pd-C | [Pd] | Pd
product | 3-(3-Hydroxyphenoxy)pyridazine | OC=1C=C(OC=2N=NC=CC2)C=CC1 | C10H8N2O2
